US07932246B2
N-Hydroxy 2-{6-[methyl(naphthalene-2-sulfonyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide—Example 45
To N-(tetrahydro-2H-pyran-2-yloxy) 2-{6-[methyl(naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide was added TFA/DCM/MeOH (5 ml, 1:1:1 mixture). The solution was stirred at r.t. for 2 h. The mixture was then concentrated under reduced pressure, and purified by reverse phase HPLC to yield the title compound (34 mg, 3% yield over 2 steps). LCMS purity >98%, m/z 440 [M−+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 1.55 (1H, m), 2.25 (2H, m), 2.77 (3H, s), 3.58 (2H, m), 3.78 (2H, d, J=11.8 Hz), 7.66-7.84 (2H, m), 7.82 (1H, dd, J=1.8, 8.6 Hz), 8.06 (1H, m), 8.18 (1H, d, J=8.7 Hz), 8.22-8.28 (1H, m), 8.49-8.52 (1H, m), 8.61 (2H, s), 9.01 (1H, br s), 11.05 (1H, br s).

reactant | N-(tetrahydro-2H-pyran-2-yloxy) 2-{6-[methyl(naphthalene-2-sulfonyl)amino]-3-azabicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C | C26H29N5O5S
reactant | TFA DCM MeOH | 5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl.CO
product | N-Hydroxy 2-{6-[methyl(naphthalene-2-sulfonyl)-amino]-3-aza-bicyclo[3.1.0]hex-3-yl}pyrimidine-5-carboxamide | 34 mg, 3% yield | ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C | C21H21N5O4S
